US07417247B2
5-Bromo-1,2,3,4-tetra(p-tolyl)-5-p-vinylphenylcyclopenta-1,3-diene
34.32 g (0.063 mol) of 1,2,3,4-tetra(p-tolyl)-5-p-vinylphenylcyclopenta-1,3-dien-5-ol were brominated with 32 ml (52.8 g, 0.43 mol) of acetyl bromide in toluene, analogously to 1,2,3,4-tetraphenyl-5-p-vinylphenylcyclopenta-1,3-dien-5-ol (yellow-orange product, yield: 31.73 g (83%); elemental analysis for C41H35Br: found: C, 80.51%, H, 5.86%. calculated: C, 81.04%, H, 5.81%).

reactant | 1,2,3,4-tetra(p-tolyl)-5-p-vinylphenylcyclopenta-1,3-dien-5-ol | 0.063 mol, 34.32 g | C1(=CC=C(C=C1)C1=C(C(=C(C1(O)C1=CC=C(C=C1)C=C)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C41H36O
reactant | acetyl bromide | 0.43 mol, 32 ml, 52.8 g | C(C)(=O)Br | C2H3BrO
reactant | 1,2,3,4-tetraphenyl-5-p-vinylphenylcyclopenta-1,3-dien-5-ol | yield: 31.73 g | C1(=CC=CC=C1)C1=C(C(=C(C1(O)C1=CC=C(C=C1)C=C)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C37H28O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-1,2,3,4-tetra(p-tolyl)-5-p-vinylphenylcyclopenta-1,3-diene | BrC1(C(=C(C(=C1C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C=C | C41H35Br
